US07700634B2
1-(Cyclohexyl)methyl-3-{5-[(dimethylamino)methyl]-[1,2,4]oxadiazol-3-yl}-7-methoxy-1H-indole, hydrochloride salt
Molecular sieves (4 Å, powdered, 200 mg) were added to a suspension of 1-(cyclohexyl)methyl-N-hydroxy-7-methoxy-1H-indole-3-carboxamidine (250 mg, 0.829 mmol) in tetrahydrofuran (6 ml) under nitrogen, and the mixture was stirred at room temperature for 30 min. Sodium hydride (60% suspension in oil, 36 mg, 0.900 mmol) was added, then the resulting mixture was stirred at 60° C. for 20 min. The reaction mixture was cooled to room temperature and N,N-dimethylglycine methyl ester (194 mg, 1.66 mmol) was added to the mixture. The resulting mixture was stirred at reflux temperature for 2 h and then concentrated in vacuo. The obtained residue was mixed with dichloromethane (200 ml), washed with 5% aqueous sodium carbonate, dried over magnesium sulfate and concentrated in vacuo. The obtained oil was purified by flash column chromatography eluting with 0.6% (v/v) methanol in dichloromethane to afford an oil. This oil was dissolved in isopropanol (3 ml), then hydrogen chloride (1M solution in diethyl ether; 3 ml) was added to the solution. The resulting mixture was concentrated in vacuo to afford the title compound (1:1 hydrochloride salt) (66 mg).

reactant | 1-(cyclohexyl)methyl-N-hydroxy-7-methoxy-1H-indole-3-carboxamidine | 0.829 mmol, 250 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=N)NO | C17H23N3O2
reactant | Sodium hydride | 0.900 mmol, 36 mg | [H-].[Na+]
reactant | N,N-dimethylglycine methyl ester | 1.66 mmol, 194 mg | COC(CN(C)C)=O | C5H11NO2
reactant | hydrogen chloride | 1M, 3 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | 1-(Cyclohexyl)methyl-3-{5-[(dimethylamino)methyl]-[1,2,4]oxadiazol-3-yl}-7-methoxy-1H-indole, hydrochloride salt | 66 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=NOC(=N1)CN(C)C | InChI=1S/C21H28N4O2.ClH/c1-24(2)14-19-22-21(23-27-19)17-13-25(12-15-8-5-4-6-9-15)20-16(17)10-7-11-18(20)26-3;/h7,10-11,13,15H,4-6,8-9,12,14H2,1-3H3;1H
